US06096741
18.04 g (0.2 mol) of a 50% aqueous solution of dimethylamine in 10 ml toluene was cooled in an ice bath and combined with 8.41 g (0.1 mol) of a diketene in 20 ml of toluene and stirred for 1 hour at room temperature. After distilling water off azeotropically, 200 ml of ethyl acetate was added and the mixture was dried over with anhydrous sodium sulfate to distill the solvent off. To the residue thus obtained, 7.63 g (0.105 mol) of sodium nitrite was added and the mixture was cooled in an ice bath and then 10 ml (0.12 mol) of a concentrated hydrochloric acid was added dropwise. After stirring for 0.5 hour at room temperature, the reaction mixture was cooled again in an ice bath, and 5.42 g (0.13 mol) of sodium hydroxide was added. The solution thus obtained was added to a solution of 18.92 g (0.15 mol) of dimethyl sulfate and 1.61 g (0.05 mol) of tetrabutylammonium bromide in 50 ml of toluene dropwise while cooling with an ice, and the mixture was stirred for 4 hours at room temperature. The reaction mixture was extracted four times with 150 ml of ethyl acetate and dried over with anhydrous magnesium sulfate, and then the solvent was distilled ofE and finally the residue thus obtained was purified by a column chromatography on a silica gel (n-hexane/ethyl acetate) to obtain 13.46 g (yield: 78%) of 2-methoxyimino-N,N-dimethylacetoacetamide as a colorless crystal.

reactant | dimethylamine | CNC | C2H7N
reactant | diketene | 0.1 mol, 8.41 g | C=C1CC(=O)O1 | C4H4O2
reactant | sodium nitrite | 0.105 mol, 7.63 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 0.12 mol, 10 ml | Cl | ClH
reactant | sodium hydroxide | 0.13 mol, 5.42 g | [OH-].[Na+]
reactant | dimethyl sulfate | 0.15 mol, 18.92 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.05 mol, 1.61 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methoxyimino-N,N-dimethylacetoacetamide | 13.46 g, yield: 78% | CON=C(C(=O)N(C)C)C(=O)C | C7H12N2O3
